US08034812B2
Production of N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-fluorophenyl]-3-(trifluoromethyl)benzamide
Using N-[6-(3-amino-4-fluorophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (163 mg, 0.50 mmol), 3-(trifluoromethyl)benzoic acid (950 mg, 5.00 mmol), 1-hydroxybenzotriazole (676 mg, 5.00 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (959 mg, 5.00 mmol) and N,N-dimethylformamide (5.0 mL) as starting materials and in the same manner as in Example 106, the title compound (160 mg, 64%) was obtained as a white powder.

reactant | N-[6-(3-amino-4-fluorophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.50 mmol, 163 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1F | C16H14FN5O2
reactant | 3-(trifluoromethyl)benzoic acid | 5.00 mmol, 950 mg | FC(C=1C=C(C(=O)O)C=CC1)(F)F | C8H5F3O2
reactant | 1-hydroxybenzotriazole | 5.00 mmol, 676 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 5.00 mmol, 959 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | N,N-dimethylformamide | 5.0 mL | CN(C=O)C | C3H7NO
product | N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-fluorophenyl]-3-(trifluoromethyl)benzamide | 160 mg, 64% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=CC(=C(C2)NC(C2=CC(=CC=C2)C(F)(F)F)=O)F)C1 | C24H17F4N5O3
